US04384966
A mixture of 2.1 parts of diketene and 0.4 parts of azobisisobutyronitrile were added dropwise over 15 minutes to 18.6 parts of diphenylphosphine which was stirred and heated at 85° C. in a nitrogen atmosphere. After the addition, the reaction mixture was heated for a further 5 minutes at 85° C., then cooled to room temperature. The excess diphenylphosphine and volatile impurities were removed by distillation on a wiped wall still at a wall temperature of 85° C. and a pressure of 0.04 mb, then the residue was distilled in the wiped wall still at 120° C. and a pressure of 0.013 mb. The product, (2-oxo-4-oxetanylmethyl)-diphenylphosphine, was obtained as a colourless oil and had an absorption at 1825 cm-1 in the infra-red spectrum, characteristic of a β-lactone.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | diphenylphosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | (2-oxo-4-oxetanylmethyl)-diphenylphosphine | O=C1OC(C1)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15O2P
